* DRV632
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: DRV632
* Date: 7/11/2012
* Model Type: All In One
* Simulator: PSPICE
* Simulator Version: Pspice 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SLOS681 - December 2010
*
* Model Version: 3.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to web
* Version 2.0 : Improved UVP circuitry
* Version 3.0 : CMRR added
*
*****************************************************************************
* Notes: 
* 1. The following parameters are being modeled: Ao, f-3dB, Slew Rate
*    Max/Min voltage/Current, noise, input voltage offset, current consumption
*    Under voltage protection with hysteresis, Mute.
* 3. The following parameters are not being modeled: PSRR
* 4. Charge pump is being modeled using ideal Voltage controlled voltage source
*****************************************************************************
*$
.SUBCKT DRV632 OUT_L -INL GND VSS EN +INL -INR +INR OUT_R VDD UVP
V5          30 31 1M
Vos         33 34 1M
V10         35 GND 3.3
V8          37 GND 1.25
V4          38 GND 3.3
V2          39 GND 500M
V6          36 GND 3.3
V1          41 GND 3.3
XU5         29 VDDx VSSx 18 30 MUTExx DRV_AMP_EN_0
XU11        -INR 18 GND_FLT CMRR_0
+ PARAMS: CMRR=83 FCMRR=220 
XU10        -INL 20 GND_FLT CMRR_0
+ PARAMS: CMRR=83 FCMRR=220 
XVn12       +INR 31 VNSE_0
XU2         32 VDDx VSSx 20 33 MUTExx DRV_AMP_EN_0
R16         29 OUT_R 110M 
R15         32 OUT_L 110M 
XVn11       +INL 34 VNSE_0
XU7         35 MUTEx MUTExx GND NOT_0
XU8         36 Comp_Out EN MUTEx GND AND_2_0
XU13        38 UVP 37 Comp_Out GND STD_OPA_SE_0
XU9         36 UVP Comp_Out GND VCVS_0
C7          GND -INR 500F IC=0 
C3          GND -INL 500F IC=0 
C2          GND +INR 500F IC=0 
C1          GND +INL 500F IC=0 
R4          VSS VSSx 1 
XU12        VDD 39 40 SCLAMP_0
R36         EN GND 100K 
XU6         GND VSSx VDDx GND VCVS_1
XU1         VSSx VDDx MUTEx GND VCVS_2
XU3         40 41 VDDx SCLAMP_1
XU4         GND_FLT GND VDDx VSSx VCVS_3
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT DRV_AMP_EN_0 Vout V+ V- -IN +IN EN
EVCVS1      44 GND_FLOAT_43 Over_clamp_42 GND_FLOAT_43  1
XU11        47 45 46 GND_FLOAT_43 EN GBW_SLEW_SE_PD_0
+ PARAMS: AOL=154 GBW=11MEG SRP=5MEG SRN=5MEG IT=1 VON=0.5 RSC=1M 
XU23        44 Vout OUT_CURRENT_CLAMP_0
+ PARAMS: RSER=0.1 IMAX=25M IMIN=25M 
XU18        V+ V- GND_FLOAT_43 GND_FLOAT_0
XU10        +IN -IN 47 45 GND_FLOAT_43 INPUT_0
+ PARAMS: RCM=1 CCM=100F CDM=100F
R2          48 49 10 
R1          50 51 10 
XU7         52 V- 0 V- VCVS_4
XU9         V+ 53 V+ 0 VCVS_4
XR108       Over_clamp_42 GND_FLOAT_43 RNOISE_FREE_0
GVCCS12     GND_FLOAT_43 Over_clamp_42 46 GND_FLOAT_43  1M
C2          Over_clamp_42 GND_FLOAT_43 1P IC=1.0022663618 
XU3         49 Over_clamp_42 IDEAL_D_0
EVCVS5      48 GND_FLOAT_43 52 Over_clamp_42  100K
XU1         Over_clamp_42 51 IDEAL_D_0
EVCVS2      50 GND_FLOAT_43 53 Over_clamp_42  100K
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT GBW_SLEW_SE_PD_0    VIP  VIM  VO  GNDF  PD
+ PARAMS: AOL = 100  GBW = 1MEG  SRP = 1MEG  SRN = 1MEG IT = 1M  
+ VON = 0.5 RSC = 1M
.PARAM PI = 3.141592
.PARAM IP = {IF(SRP <= SRN,IT,IT*(SRP/SRN))}
.PARAM IN = {IF(SRN <= SRP,-IT,-IT*(SRN/SRP))}
.PARAM CC = {IF(SRP <= SRN,IT/SRP,IT/SRN)}
.PARAM FP = {GBW/PWR(10,AOL/20)}
.PARAM RC = {1/(2*PI*CC*FP)}
.PARAM GC = {PWR(10,AOL/20)/RC}
G1          GNDF VO VALUE = {IF(V(PD) < VON,LIMIT(GC*V(VIP,VIM),IP,IN),0)}
C1          VO GNDF {CC}
GR1         VO GNDF VALUE =  {IF(V(PD) < VON,V(VO,GNDF)/RC,V(VO,GNDF)/RSC)}
GR11        VO GNDF VALUE =  {V(VO,GNDF)/(RC*1000)}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT OUT_CURRENT_CLAMP_0   IN  OUT  
+PARAMS: RSER = 1 IMAX = 10M  IMIN = 10M
GRES  IN OUT VALUE = {LIMIT(V(IN,OUT)/RSER,IMAX,-IMIN)}
.ENDS
*$
**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT CMRR_0   VI  VO  GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VI GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR} IC = 0
R2  2 GNDF 1k
E1  VI VO 1 GNDF 1
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT GND_FLOAT_0   VDD VSS GNDF 
EGNDF  GNDF 0 VALUE = {(V(VDD)+V(VSS))*0.5}
.ENDS
*$
**************************************
**                                  **
**                                  ** 
**                                  **          
**                                  **
**************************************
.SUBCKT INPUT_0   VIP  VIN  VOP  VON  GNDF PARAMS: RCM = 1  CCM = 100F  CDM = 100F
C1          VOP GNDF {CCM} 
C2          VON GNDF {CCM}
C3          VOP VON {CDM}
R1          VIP VOP {RCM}
R2          VIN VON {RCM} 
.ENDS
*$
**************************************
.SUBCKT VNSE_0  1 2
R4 3 0 100G
E3 1 2 3 0 1
.ENDS
*$
.SUBCKT NOT_0  VDD VI VO VSS 
ESLICE VO 0  VALUE = {IF(V(VI)>=V(VCM),V(VSS),V(VDD))}
ECM  VCM  0  VALUE = {(V(VDD,0)+V(VSS,0))*0.5}
.ENDS NOT_0 
*$
.SUBCKT AND_2_0  VDD A B Y VSS 
ECM  VCM  0  VALUE = {(V(VDD,0)+V(VSS,0))*0.5}
EA  VA  0  VALUE = {IF(V(A)>=V(VCM),1,0)}
EB  VB  0  VALUE = {IF(V(B)>=V(VCM),1,0)}
EY  Y  0  VALUE = {IF(V(VA)*V(VB)>0.5,V(VDD),V(VSS))}
.ENDS AND_2_0 
*$
.SUBCKT STD_OPA_SE_0  VDD VIP VIN VO VSS
.PARAM GAIN = 100E3
EGAIN VO 0 VALUE = {LIMIT(V(VIP,VIN)*GAIN,V(VDD),V(VSS))}
.ENDS STD_OPA_SE_0 
*$
.SUBCKT VCVS_0  VP VN CP CN PARAMS: G = 0.5
G VP VN VALUE = {IF(V(CP,CN) >= 1.65,5U,1N)}
.ENDS VCVS_0 
*$
.SUBCKT SCLAMP_0   VIN VLIM VOUT 
ES1  VIN  VOUT  VALUE = { IF(V(VIN,0)<= V(VLIM,0),V(VIN) - V(VLIM),0) }
.ENDS SCLAMP_0 
*$
.SUBCKT VCVS_1  VP VN CP CN 
E VP VN VALUE = {V(CP,CN)}
.ENDS VCVS_1 
*$
.SUBCKT VCVS_2  VP VN CP CN PARAMS: G = 0.5
G VP VN VALUE = {IF(V(CP,CN) >= 1.65,-14M,-1M)}
.ENDS VCVS_2 
*$
.SUBCKT SCLAMP_1   VIN VLIM VOUT 
ES1  VIN  VOUT  VALUE = { IF(V(VIN,0)>V(VLIM,0),V(VIN) - V(VLIM),0) }
.ENDS SCLAMP_1 
*$
.SUBCKT VCVS_3  VP VN CP CN PARAMS: G = 0.5
E1 VP VN VALUE = {(V(CP) + V(CN))*G}
.ENDS VCVS_3 
*$
.SUBCKT VCVS_4  VP VN CP CN 
E VP VN VALUE = {IF(V(CP,CN) >= 3,(V(CP,CN)+0.1)/6.8,0.5)}
.ENDS VCVS_4 
*$
.SUBCKT RNOISE_FREE_0  1 2
.PARAM ROHMS=1E3
ERES 1 3 VALUE = { I(VSENSE) * ROHMS }
RDUMMY 30 3 1
VSENSE 30 2 DC 0V
.ENDS RNOISE_FREE_0 
*$
.SUBCKT IDEAL_D_0  A C
D1 A C DNOM
.MODEL DNOM D (TT=10P CJO=1E-18 IS=1E-15 RS=1E-3)
.ENDS IDEAL_D_0
*$
